US06063949
A solution of 12.5 g (85 mmol) of 4-(dimethylamino)-5,6-dihydropentalene in 50 ml of tetrahydrofuran are admixed with a solution of 10.4 g (85 mmol) of indenyllithium in 20 ml of tetrahydrofuran. The reaction solution is stirred for 24 hours at room temperature and the reaction is stopped by addition of water. Extraction with diethyl ether, drying of the organic phases over MgSO4 and removal of the solvent under reduced pressure and subsequent recrystallization of the crude product from diethyl ether gives 13.9 g (75%) of 4-indenyl-5,6-dihydropentalene.

reactant | 4-(dimethylamino)-5,6-dihydropentalene | 85 mmol, 12.5 g | CN(C1=C2C=CC=C2CC1)C | C10H13N
reactant | indenyllithium | 85 mmol, 10.4 g | C1(C=CC2=CC=CC=C12)[Li]
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-indenyl-5,6-dihydropentalene | 13.9 g, 75% | C1(C=CC2=CC=CC=C12)C1=C2C=CC=C2CC1 | C17H14
